US09371308B2
(2-{3-[bis(2-hydroxyethyl)amino]propoxy}-4-methoxyphenyl)(phenyl)methanone
A 500 mL three-neck flask was charged with (2-hydroxy-4-methoxyphenyl)(phenyl) methanone (100.0 g; 0.4381 mol), 1-bromo-3-chloropropane (82.78 g; 0.5258 mol) and 4-methyl-2-pentanone (250 mL). Anhydrous potassium carbonate (66.61 g; 0.4819 mol) was added and the reaction mixture was stirred at reflux (120° C.) for 10 h. The reaction mixture was filtered hot and the inorganic solids were washed with 4-methyl-2-pentanone (2×100 mL). The filtrate was charged into a mixture of neat diethanolamine (161.2 g; 1.533 mol) and sodium iodide (6.57 g; 43.81 mmol). The reaction mixture heated to reflux (122° C.) for 24 h. The reaction mixture was cooled to room temperature and diluted with water (500 mL). The resulting emulsion was extracted with 4-methyl-2-pentanone (2×200 mL). The aqueous phase was discarded and the organic phase was extracted with 1 M HCl (2×500 mL). The aqueous phase was taken to pH 12 with 50% aqueous NaOH. The resulting emulsion was extracted with 4-methyl-2-pentanone (3×200 mL). The organic phase was separated, dried (MgSO4), filtered and the solvent removed in vacuo. This provides (2-{3-[bis(2-hydroxyethyl)amino]propoxy}-4-methoxyphenyl)(phenyl)methanone (light yellow oil; 90.4 g; 55% yield over 3 steps).

reactant | (2-hydroxy-4-methoxyphenyl)(phenyl) methanone | 0.4381 mol, 100.0 g | OC1=C(C=CC(=C1)OC)C(=O)C1=CC=CC=C1 | C14H12O3
reactant | 1-bromo-3-chloropropane | 0.5258 mol, 82.78 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.4819 mol, 66.61 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethanolamine | 1.533 mol, 161.2 g | N(CCO)CCO | C4H11NO2
reactant | sodium iodide | 43.81 mmol, 6.57 g | [I-].[Na+]
solvent | water | 500 mL | O | H2O
solvent | 4-methyl-2-pentanone | 250 mL | CC(CC(C)=O)C | C6H12O
product | (2-{3-[bis(2-hydroxyethyl)amino]propoxy}-4-methoxyphenyl)(phenyl)methanone | 55% yield | OCCN(CCCOC1=C(C=CC(=C1)OC)C(=O)C1=CC=CC=C1)CCO | C21H27NO5
